US08877782B2
(1,1-Dioxo-1λ6-thiomorpholin-4-yl)-[6-(5-methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-methanone
As described for example 147, 6-(5-methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-nicotinic acid (93 mg, 0.3 mmol) was converted, using thiomorpholine-S,S-dioxide instead of cyclopropylmethylamine, to the title compound (75 mg, 58%) which was obtained as an off white solid. MS: m/e=429.4 [M+H]+.

reactant | 6-(5-methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.3 mmol, 93 mg | CC1=C(C(=NO1)C1=CC=NC=C1)COC1=NC=C(C(=O)O)C=C1 | C16H13N3O4
reactant | thiomorpholine-S,S-dioxide | N1CCS(CC1)(=O)=O | C4H9NO2S
product | (1,1-Dioxo-1λ6-thiomorpholin-4-yl)-[6-(5-methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-methanone | 75 mg, 58% | O=S1(CCN(CC1)C(=O)C=1C=NC(=CC1)OCC=1C(=NOC1C)C1=CC=NC=C1)=O | C20H20N4O5S
